US07335673B2
Preparation of 3-[4-(2,6-dichlorophenyl ethynyl)phenyl]-2-{3-[(2,2-dimethylpropionyl)isobutyl amino]-4-methoxyphenyl}propionic acid
3-(4-iodophenyl)-2-{3-[(2,2-dimethylpropionyl) isobutylamino]-4-methoxyphenyl}propionic acid ethyl ester (0.15 g, 0.27 mmol) was dissolved in triethylamine (2 mL), the solution was further added with 1,3-dichloro-2-ethynylbenzene (0.15 g, 0.53 mmol), copper iodide (I) (5 mg, 0.026 mmol) and tetrakis(triphenylphosphine) palladium (15 mg, 0.013 mmol), and the mixture was stirred at room temperature for 15 hours. The solution was treated with a citric acid solution. The solution was then extracted with ethyl acetate, washed with a saturated brine, the extract was dried over anhydrous magnesium sulfate, evaporated under reduced pressure so as to remove the solvent, and the resultant residue was purified through silica gel column chromatography (hexane:ethyl acetate (v/v)=3:1) to thereby obtain 3-[4-(2,6-dichlorophenylethynyl)phenyl]-2-{3-[(2,2-dimethylpropionyl)isobutylamino]-4-methoxyphenyl} propionic acid ethyl ester (yield: 0.11 g, yield ratio: 68%).

reactant | 3-(4-iodophenyl)-2-{3-[(2,2-dimethylpropionyl) isobutylamino]-4-methoxyphenyl}propionic acid ethyl ester | 0.27 mmol, 0.15 g | C(C)OC(C(CC1=CC=C(C=C1)I)C1=CC(=C(C=C1)OC)N(CC(C)C)C(C(C)(C)C)=O)=O | C27H36INO4
reactant | 1,3-dichloro-2-ethynylbenzene | 0.53 mmol, 0.15 g | ClC1=C(C(=CC=C1)Cl)C#C | C8H4Cl2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
catalyst | copper iodide | 0.026 mmol, 5 mg | [Cu](I)I
catalyst | tetrakis(triphenylphosphine) palladium | 0.013 mmol, 15 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-[4-(2,6-dichlorophenyl ethynyl)phenyl]-2-{3-[(2,2-dimethylpropionyl)isobutyl amino]-4-methoxyphenyl}propionic acid | ClC1=C(C(=CC=C1)Cl)C#CC1=CC=C(C=C1)CC(C(=O)O)C1=CC(=C(C=C1)OC)N(CC(C)C)C(C(C)(C)C)=O | C33H35Cl2NO4
